US06143764
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N'-(2-fluorophenyl)urea [116]
6,7-Dimethoxy-4-(4-aminophenoxy)quinazoline (100 mg) was dissolved in toluene (10 ml) with heat, 2-fluorophenyl isocyanate (0.30 ml) was added, and the admixture was refluxed with heat for 40 minutes. The separated solid was filtered and washed with toluene to obtain 96 mg of the title compound (yield: 66%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinazoline | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)N | C16H15N3O3
reactant | 2-fluorophenyl isocyanate | 0.30 ml | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N'-(2-fluorophenyl)urea | 96 mg, yield: 66% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F | C23H19FN4O4
